US07592453B2
N-((1R,2S)-2-{[4-(1H-Imidazol-2-yl)-2,3-dihydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
In the same manner as in Example 325, [2-((3aR*,4R*,9bR*)—{[(1S,2R)-2-(benzoylamino)cyclohexyl]carbonyl}-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-imidazol-1-yl]methylpivalate was subjected to the oxidization reaction to synthesize [2-(1-{[(1S,2R)-2-(benzoylamino)cyclohexyl]carbonyl}-2,3-dihydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-imidazol-1-yl]methyl pivalate, and then the title compound was synthesized in the same manner as in Example 81 by removing the pivaloyloxymethyl group.

reactant | [2-((3aR*,4R*,9bR*)—{[(1S,2R)-2-(benzoylamino)cyclohexyl]carbonyl}-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-imidazol-1-yl]methylpivalate | C(C1=CC=CC=C1)(=O)N[C@H]1[C@H](CCCC1)C(=O)N1CC[C@@H]2[C@@H](NC=3C=CC=CC3[C@@H]21)C=2N(C=CN2)CCC(C(=O)[O-])(C)C
reactant | [2-(1-{[(1S,2R)-2-(benzoylamino)cyclohexyl]carbonyl}-2,3-dihydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-imidazol-1-yl]methyl pivalate | C(C(C)(C)C)(=O)OCN1C(=NC=C1)C1=NC=2C=CC=CC2C2=C1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C34H37N5O4
product | N-((1R,2S)-2-{[4-(1H-Imidazol-2-yl)-2,3-dihydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | N1C(=NC=C1)C1=NC=2C=CC=CC2C2=C1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(C2=CC=CC=C2)=O | C28H27N5O2
